US08623889B2
N-(7-(Difluoromethoxy)isoquinolin-3-yl)cyclopropanecarboxamide
A solution of N-(7-hydroxyisoquinolin-3-yl)cyclopropanecarboxamide (91.2 mg, 0.40 mmol), diethyl bromodifluoromethylphosphonate (212 mg, 0.80 mmol) in acetonitrile/water (1:1, 5 mL) was mixed and stirred at −78° C. After the reaction mixture was warmed to room temperature and stirred for 20 minutes, the reaction mixture was diluted with ethyl acetate, and the organic phase was separated. The water phase was extracted with ethyl acetate, and the combined organic layer was dried, concentrated and purified by prep-HPLC to give product (42.8 mg, 26%). LCMS (ESI): RT (min)=0.994, M+H+=279.0, method=A. 1H NMR (400 MHz, DMSO-d6) δ 8.92 (s, 1H), 8.54 (s, 1H), 8.37 (s, 1H), 7.79 (d, J=8.8 Hz, 1H), 7.54 (s, 1H), 7.43 (dd, J=2.4, 8.8 Hz, 1H), 6.61 (t, J=73.2 Hz, 1H), 1.71-1.57 (m, 1H), 1.15-1.11 (m, 2H), 0.95-0.89 (m, 2H).

reactant | N-(7-hydroxyisoquinolin-3-yl)cyclopropanecarboxamide | 0.40 mmol, 91.2 mg | OC1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1 | C13H12N2O2
reactant | diethyl bromodifluoromethylphosphonate | 0.80 mmol, 212 mg | BrC(F)(F)P(OCC)(OCC)=O | C5H10BrF2O3P
solvent | acetonitrile water | 5 mL | C(C)#N.O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(7-(Difluoromethoxy)isoquinolin-3-yl)cyclopropanecarboxamide | 42.8 mg, 26% | FC(OC1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1)F | C14H12F2N2O2
